US07301034B2
3-(3-Bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole
10 g (35.3 mmol) of 4-bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline, 67.3 mg of copper powder and 58.5 ml of dimethyl disulfide are initially charged, and the mixture is stirred for one hour. At 50° C., 9.05 g of a 40.4% strength aqueous sodium nitrite solution are added. At 63-65° C., 6.96 g of 25% strength sulfuric acid are then metered in, and the mixture is stirred at 65° C. for 3 hours. At 20-25° C., 15 ml of conc. hydrochloric acid are added, and the mixture is stirred for one hour. 15 ml of water are added, and the phases are then separated. Washing is repeated twice. The organic phase is concentrated, giving 6.7 g of a brown solid (yield: 58%).

reactant | 4-bromo-2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | 35.3 mmol, 10 g | BrC1=C(C(=C(N)C=C1)C1=NOCC1)C | C10H11BrN2O
reactant | dimethyl disulfide | 58.5 ml | CSSC | C2H6S2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 15 ml | Cl | ClH
catalyst | copper | 67.3 mg | [Cu] | Cu
solvent | water | 15 ml | O | H2O
product | 3-(3-Bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | 6.7 g, yield: 58% | BrC=1C(=C(C(=CC1)SC)C1=NOCC1)C | C11H12BrNOS
